US04482559
2-(Methylamino-methyl)-4-(p-methoxy-phenyl)-6-methyl-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine
A mixture of 2.87 gm (0.01 mol) of 2-formyl-4-(p-methoxy-phenyl)-6-methyl-4,5,6,7-tetrahydro-thieno-[2,3-c]pyridine (prepared analogous to Example 5; light yellow oil), 70 ml of tetrahydrofuran, an excess of methylamine, and Raney nickel was kept at a temperature of 60° C. for several hours under a hydrogen pressure of 5 bar. After the catalyst had been removed by suction filtration, the title compound was precipitated in the form of the dimaleate by the addition of ethanolic maleic acid.

reactant | 2-formyl-4-(p-methoxy-phenyl)-6-methyl-4,5,6,7-tetrahydro-thieno-[2,3-c]pyridine | 0.01 mol, 2.87 gm | C(=O)C1=CC2=C(CN(CC2C2=CC=C(C=C2)OC)C)S1 | C16H17NO2S
reactant | methylamine | CN | CH5N
catalyst | Raney nickel | [Ni] | Ni
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 2-(Methylamino-methyl)-4-(p-methoxy-phenyl)-6-methyl-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine | CNCC1=CC2=C(CN(CC2C2=CC=C(C=C2)OC)C)S1 | C17H22N2OS
